US07465815B2
2,2,6,7-Tetramethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran
To a solution of 2-(2,3-dimethylphenoxy)-2-methyl-1-(4-methylphenyl)propane-1-ol synthesized in Reference Example 135 (17.0 g, 60 mmol) in toluene (200 mL) was added trifluoromethanesulfonate (0.53 mL, 6 mmol) at 0° C., and the mixture was warmed to 50° C. The mixture was stirred at the same temperature for 30 minutes and was reacted under reflux condition for 2 hours. The reaction solution was cooled to 0° C., and then was poured into a saturated sodium hydrogen carbonate solution. The organic layer was separated, washed with a saturated brine, and dried over sodium sulfate, and the solvent then was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:9) to obtain 9.3 g (yield 58%) of the title compound as an oily matter.

reactant | 2-(2,3-dimethylphenoxy)-2-methyl-1-(4-methylphenyl)propane-1-ol | CC1=C(OC(C(O)C2=CC=C(C=C2)C)(C)C)C=CC=C1C | C19H24O2
reactant | trifluoromethanesulfonate | 6 mmol, 0.53 mL | FC(S(=O)(=O)[O-])(F)F
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | 2,2,6,7-Tetramethyl-3-(4-methylphenyl)-2,3-dihydro-1-benzofuran | 9.3 g, yield 58% | CC1(OC2=C(C1C1=CC=C(C=C1)C)C=CC(=C2C)C)C | C19H22O
